US07595397B2
1-[2-(S)-Benzyl-4-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazin-1-yl]-ethanone
45 mg of 3-(S)-benzyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine was dissolved in dichloromethane, 1.1 equiv. of acetylchloride and 1.5 equiv. of N,N-diisopropylethylamine were added. The reaction was stirred at room temperature under nitrogen overnight. The reaction was diluted with DCM, washed with saturated aqueous sodium bicarbonate solution, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by column chromatography to afford 51 mg of the title compound as free base. Yield 84%, Treatment with 1 equiv. of 1M HCl in dioxane gave the HCl salt. ES MS(+) m/z 453

reactant | 3-(S)-benzyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine | 45 mg | C(C1=CC=CC=C1)[C@H]1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C25H25F3N2
reactant | acetylchloride | 1.1 equiv. | C(C)(=O)Cl | C2H3ClO
reactant | N,N-diisopropylethylamine | 1.5 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-[2-(S)-Benzyl-4-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazin-1-yl]-ethanone | 51 mg | C(C1=CC=CC=C1)[C@@H]1N(CCN(C1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F)C(C)=O | C27H27F3N2O
